US08039463B2
HOBt (213 mg, 1.5 mmol) and DIEA (508 mg, 3.9 mmol) were added to a stirred solution of 2,5-dichlorobenzoicacid (250 mg, 1.3 mmol) in DMF (2.5 mL). The reaction mixture was then cooled to 10° C. and EDCI.HCl (302 mg, 1.5 mmol) followed by piperazine-1-carboxylic acid tert-butyl ester (260 mg, 1.3 mmol) were added. The resulting mixture was stirred at room temperature overnight. The reaction mixture was then diluted with water and the product extracted with ethyl acetate. The ethyl acetate layer was washed with brine solution, dried over Na2SO4, and concentrated under reduced pressure to afford the crude residue which was purified by column chromatography using silica gel 60-120 mesh (30% ethyl acetate in hexane) to afford 396 mg (84%) of 4-(2,5-dichloro-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester, LCMS: 360.08 (M+1)+, 98.2%.

reactant | HOBt | 1.5 mmol, 213 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 3.9 mmol, 508 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,5-dichlorobenzoicacid | 1.3 mmol, 250 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | EDCI.HCl | 1.5 mmol, 302 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.3 mmol, 260 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2,5-dichloro-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 396 mg, 84% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)Cl)=O | C16H20Cl2N2O3
